Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
finasteride
 
Attending: ___.
 
Chief Complaint:
SBO
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___, PMH significant for HTN, open appendectomy (at ___, p/w NV 
and abd pain. Patient reports symptoms x 3days. Episodes of pain 
are accompanied by belching, nausea, vomiting. He also endorses 
po intolerance, and as a result, has not had much by way of food 
or fluids. He describes ___ lower abdominal pain that's colicky 
in onset and achy in nature - worse in the evenings. Reports 
pain
was gone yesterday morning but was severe by mid-day and all 
through the night. His last BM was ___ days ago as well as the 
last time he recall passing flatus. Denies chest pain, cough, 
SOB. Emesis is NB. Stool last NB.
 
Past Medical History:
Past Medical History:  
HTN, HLD

Past Surgical History:  
Appendectomy

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:  

Vitals:  97.0 65 133/87 17 100% RA
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist  
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Laparotomy scar, well healed. Soft / distended / mild TTP
lower abd. 
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 97.6
PO 108 / 68 61 18 98 Ra 
GEN:
HEENT:
CV:
PULM:
ABD:
EXT:  
 
Pertinent Results:
IMAGING:

___: CT Abdomen/Pelvis:
High-grade small bowel obstruction with a transition point in 
the right lower quadrant. 

___: CXR: 
 
NG tube positioned appropriately. 

___: KUB:
 
Diffusely dilated loops of small bowel in keeping with known 
small-bowel 
obstruction.  Of note, there is no contrast within the bowel. 

___: ABDOMEN (SUPINE & ERECT):

Oral contrast reached the rectum, with persistent small bowel 
dilation up to 5.1 cm, favoring a partial grade small-bowel 
obstruction. 

___: ABDOMEN (SUPINE & ERECT):
Enteric contrast material projects throughout the colon and 
rectum with 
persisting dilated small bowel loops measuring up to 4.8 cm 
suggestive of a partial small bowel obstruction. 

LABS:

___ 02:45PM   LACTATE-2.5*
___ 01:56PM   LACTATE-3.0*
___ 01:48PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:48PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-2* PH-5.5 LEUK-NEG
___ 01:48PM URINE  RBC-2 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 01:48PM URINE  HYALINE-2*
___ 01:48PM URINE  MUCOUS-MOD
___ 12:55PM   GLUCOSE-117* UREA N-26* CREAT-1.1 SODIUM-136 
POTASSIUM-4.3 CHLORIDE-95* TOTAL CO2-26 ANION GAP-19
___ 12:55PM   ALT(SGPT)-14 AST(SGOT)-27 ALK PHOS-57 TOT 
BILI-2.7*
___ 12:55PM   LIPASE-36
___ 12:55PM   cTropnT-<0.01
___ 12:55PM   ALBUMIN-4.9 CALCIUM-9.2 PHOSPHATE-4.6* 
MAGNESIUM-2.3
___ 12:55PM   WBC-10.4* RBC-4.87 HGB-15.2 HCT-45.4 MCV-93 
MCH-31.2 MCHC-33.5 RDW-12.8 RDWSD-43.9
___ 12:55PM   NEUTS-74.7* LYMPHS-13.6* MONOS-11.0 EOS-0.2* 
BASOS-0.1 IM ___ AbsNeut-7.78* AbsLymp-1.41 AbsMono-1.14* 
AbsEos-0.02* AbsBaso-0.01
___ 12:55PM   PLT COUNT-220
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M w/ PMH significant for HTN, open 
appendectomy (at ___, p/w NV and abdominal pain. CT 
abdomen/pelvis revealed a high-grade small bowel obstruction 
with a transition point in the right lower quadrant. A NGT was 
placed for bowel decompression and placed to low continuous 
suction. The patient was admitted to the Acute Care Surgery 
service and was transferred to the floor to await return of 
bowel function. 

On HD2, the NGT output was minimal and a KUB was ordered to 
evaluate transit of contrast through small bowel.  KUB was c/w a 
partial small bowel obstruction. On HD3, the patient passed 
flatus and the NGT was removed. On HD4, the patient was started 
on sips which was well tolerated.  He reported some nausea which 
was Diet was advanced to clears and then regular.   

The patient was alert and oriented throughout hospitalization; 
pain was managed with prn acetaminophen. The patient remained 
stable from a cardiovascular and pulmonary standpoint; vital 
signs were routinely monitored. Good pulmonary toilet, early 
ambulation and incentive spirometry were encouraged throughout 
hospitalization. 
The patient's intake and output were closely monitored. The 
patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
1.  Lisinopril 20 mg PO DAILY  

 
Discharge Medications:
1.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were admitted to the hospital with 
abdominal pain and were found to have a small bowel obstruction. 
 You had a tube placed in your nose down into your stomach 
(nasogastric tube) to allow for abdominal decompression while 
awaiting return of bowel function. You had return of bowel 
function (started to pass gas and have bowel movements) and so 
the nasogastric tube was removed and your diet was gradually 
advanced. You are now tolerating a regular diet and your pain is 
better controlled.  You are now ready to be discharged home to 
continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___